US06486210B2
A solution of 2,4,6-trifluorophenylacetylene (0.02 mol), 4-methylbenzyl mercaptan (0.02 mol) and metallic sodium (0.02 g atom) is subjected to General Procedure 2 to form (Z)-2,4,6-trifluorostyryl-4-methylbenzylsulfide. The title compound is obtained following oxidation of the sulfide, according to General Procedure 2.

reactant | 2,4,6-trifluorophenylacetylene | 0.02 mol | FC1=C(C(=CC(=C1)F)F)C#C | C8H3F3
reactant | 4-methylbenzyl mercaptan | 0.02 mol | CC1=CC=C(CS)C=C1 | C8H10S
reactant | sodium | 0.02 g | [Na] | Na
product | (Z)-2,4,6-trifluorostyryl-4-methylbenzylsulfide | FC1=C(\C=C/C(C2=CC=C(C=C2)C)SC(C2=CC=C(C=C2)C)\C=C/C2=C(C=C(C=C2F)F)F)C(=CC(=C1)F)F | C32H24F6S
